US04490388
Example 13 Synthesis of 4-(β-amidinoethenyl)phenyl 4-guanidinobenzoate:
To a solution of 106 g of 4-guanidinobenzoic acid hydrochloride in 1.3 liters of pyridine, while being cooled in ice and stirred, was added 122 g of DCC. After 30 minutes of stirring, to the mixture was added slowly 127 g of 4-(β-amidinoethenyl)phenol methanesulfonate. The resulting clear solution was stirred overnight and the precipitated solid substance was collected by filtration. The solid substance was suspended in 2 liters of water, thoroughly stirred, and filtered. To the filtrate was added at room temperature about 2 liters of saturated aqueous sodium bicarbonate solution. The mixture was stirred and the precipitated crystals were collected by filtration, washed with water, and then with acetone. After air-drying for a short time, the orange-yellow crystals were suspended in 200 ml of methanol and admixed with about 100 g (2 equivalents) of methanesulfonic acid while stirring at room temperature. Ethyl ether was added to the reaction mixture to precipitate crystals which were collected by filtration. The crystals were suspended in methanol and converted again to the carbonate. The carbonate was suspended in 300 ml of ethanol at room temperature and admixed with methanesulfonic acid to turn the suspension into a clear solution. The solution was stirred for a while to precipitate crystals which were collected by filtration at room temperature and thoroughly washed with cold ethanol. The yield was 45 g (18%).

reactant | 4-guanidinobenzoic acid hydrochloride | 106 g | Cl.N(C(=N)N)C1=CC=C(C(=O)O)C=C1
reactant | DCC | 122 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-(β-amidinoethenyl)phenol methanesulfonate | 127 g | CS(=O)(=O)OC1=CC=C(C=C1)C=CC(N)=N | C10H12N2O3S
reactant | methanesulfonic acid | about 100 g, 2 equivalents | CS(=O)(=O)O | CH4O3S
solvent | pyridine | 1.3 liters | N1=CC=CC=C1 | C5H5N
solvent | Ethyl ether | C(C)OCC | C4H10O
product | 4-(β-amidinoethenyl)phenyl 4-guanidinobenzoate | N(C(=N)N)C1=CC=C(C(=O)OC2=CC=C(C=C2)C=CC(N)=N)C=C1 | C17H17N5O2
